US04684657
1-[4-(7-Chloro-4-quinolinylamino)benzenesulphonyl]-4-(4-fluorobenzoyl)piperazine
4-(7-Chloro-4-quinolinylamino)benzenesulphonyl chloride hydrochloride (7.8 g, 0.02 mol) was added portionwise with stirring to a cold mixture of 1-(4-fluorobenzoyl)piperazine hydrochloride (4.9 g, 0.02 mol) in chloroform (250 ml) and sodium carbonate (24.4 g) in water (250 ml). The cooling bath was removed and the mixture was allowed to warm to room temperature. After 1 hour the chloroform layer was separated and dried (MgSO4). The solvent was removed by evaporation to give a brown gum. Crystallisation from ethanol gave the pure title compound (0.53 g), m.p. 235°-237° C.

reactant | 4-(7-Chloro-4-quinolinylamino)benzenesulphonyl chloride hydrochloride | 0.02 mol, 7.8 g | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl
reactant | 1-(4-fluorobenzoyl)piperazine hydrochloride | 0.02 mol, 4.9 g | Cl.FC1=CC=C(C(=O)N2CCNCC2)C=C1
reactant | sodium carbonate | 24.4 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 250 ml | O | H2O
product | 1-[4-(7-Chloro-4-quinolinylamino)benzenesulphonyl]-4-(4-fluorobenzoyl)piperazine | 0.53 g | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)F)=O | C26H22ClFN4O3S
